2140-01-14 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory failure here for consideration of
   tracheostomy
   24 Hour Events:
 EKG - At [**2140-1-13**] 10:15 PM
   no events
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-1-14**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 63 (61 - 68) bpm
   BP: 102/53(64) {82/39(53) - 163/71(94)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  180 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    490 mL
                                                                    235 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -490 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 91%
   ABG: ///32/
   Ve: 8.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   10.2 g/dL
   90 mg/dL
   1.3 mg/dL (BL .9-1.1)
   32 mEq/L
   3.6 mEq/L
   34 mg/dL
   103 mEq/L
   145 mEq/L
   30.8 %
   5.9 K/uL
        [image002.jpg]
                            [**2140-1-13**]  11:14 PM
   WBC
   5.9
   Hct
   30.8 (baseline)
   Plt
   239
   Cr
   1.3
   TropT
   0.05
   Glucose
   90
   Other labs: CK / CKMB / Troponin-T:21//0.05, Differential-Neuts:66.9 %,
   Lymph:23.8 %, Mono:3.4 %, Eos:5.4 %, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.9 mg/dL
   Fluid analysis / Other labs: proBNP: 1376
   CK: 21  MB: Notdone  Trop-T: 0.05
   Imaging: CXR [**1-13**] - c/w fluid overload, bilat pleural effusion
   Chest US -pending
   Microbiology: U cxr - pending
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
   68F with COPD, CAD, systolic CHF, and tracheal stenosis s/p complicated
   respiratory failure history, presenting with recurrent acute pulmonary
   edema of unclear etiology and respiratory failure.
   .
   # Respiratory failure.  Has a complicated tracheal history as above
   with past trach now decannulated; now presenting with multiple recent
   reintubations for acute onset respiratory distress and reported
   pulmonary edema.  Etiology of acute pulmonary edema not entirely clear
   - discussion of ?negative pressure edema from negative pressure
   generation with pulling against stenosed upper airway, acute ischemic
   heart disease leading to diastolic dysfunction, other cause of acute
   afterload increase (particularly likely as seems to have clear relation
   to anxiety), less likely total body volume overload given acuity of
   symptom onset.  Does not seem to be OSA related though that is in her
   history (no nighttime occurances).  Also may be combination of factors
   - anxiety leading to increased afterload and poor forward flow leading
   to dyspnea, then severe dyspnea leading to increased intrathoracic
   pressures and worse dynamic airway stenosis.
   - Continue vent at current settings overnight.
   - Would strongly consider more definitive airway management to both
   prevent further tracheal injury with repeated intubations, and bypass
   stenosed area if NPPE playing a role.  Will discuss tomorrow with
   ENT/[**Doctor Last Name 4311**] and IP/[**Doctor Last Name 4950**].  Will keep NPO in case able to do tomorrow.
   - Try to obtain further information re: enzyme or ECG changes with
   acute episodes; also obtain recent cath if any (from St Vincents) and
   recent stress (from PCP) and recent TTE (from [**Hospital1 4942**]).
   - CXR now to eval tube placement.
   - ECG and check cardiac enzymes.  Check BNP.
   - Consider Aline if prolonged intubation or attempting to manage
   without trach.
   .
   # Acute pulmonary edema.  Etiology unclear as above.  Currently appears
   euvolemic.
   - Management of respiratory failure as above.
   - CXR.
   - Check BNP.
   - Continue CAD and CHF meds.  Need to clarify with patinet and pharmacy
   if can be on lisinopril (listed on home meds, but also listed as
   allergy with angioedema - hold for now).
   .
   # COPD and tracheal stenosis.  Recent PFTs as per PMH.  Bronch during
   last admission revealing mild tracheal stenosis.  Unclear if this is
   contributing to her dyspnea and/or respiratory failure (primarily via
   negative pressure pulmonary edema and/or dynamic collapse of airways).
   - Trach as above.
   - ?home medication regimen for COPD - no inhalers currently listed.
   Can do inhalers prn while intubated.
   .
   # Pacer pocket pain/swelling.  Now about 2 weeks out from placement.
   Tender on exam though no erythema.
   - Ultrasound chest pocket.
   - Hold on specific abx treatment for now.
   .
   # UTI.  Lactose fermenting GNRs at OSH.
   - Ceftriaxone for now.  Resend UA and culture.  Consider broadening as
   has been in hospital a lot recently.
   - Check with OSH tomorrow re: culture update.
   .
   # Systolic CHF.
   - Obtain TTE results if really was performed today at OSH.
   - BB.  Hold ACE given ?allergy as above.
   - Lasix 40 IV BID for now, goal 1L neg in next 24 hours.  Mildly volume
   up.
   - Check BNP and CXR.
   .
   # CAD.  Consideration of ischemia as cause of symptoms as above.
   - Statin.
   - ASA for now ?need to hold for trach.
   - Obtain cath, echo, stress reports as above.
   .
   # Afib.  Currently mostly A paced on tele.  Otherwise having sinus
   beats.  Has never been on AC for unclear reasons.
   - Metoprolol as abov.e
   - Clarify AC plans.
   .
   # Depression/anxiety.  Significant player in her respiratory distress
   episodes; not well managed as an outpatient with frequent admissions as
   per HPI.  Takes Ativan at home per patient, denies clonazepam.
   - Ativan prn for now.
   - Risk for BZ withdrawal if held; watch for signs.
   - Continue citalopram.
   .
   # FEN: No IVF, replete electrolytes, NPO for now (?trach), TF recs.
   # Prophylaxis: heparin allergic; boots.
   # Access: peripherals, will likely need PICC.
   # Communication: Patient
   # Code:  Full
   # Disposition: ICU pending clinical improvement

2140-01-14 09:49:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo women with h/o COPD, CAD, diastolic CHF, h/o trach for 1 year
   after hip replacement surgery, tracheal fistula, residual tracheal
   stenosis.  Had PEA arrest at home, intubated, treated for CHF and PNA
   at [**Hospital3 **], she was extubated, reintubated.  Transferred
   here and admitted to thoracics in [**Month (only) 1033**] - had bronch with tracheal
   stenosis that was dilated.  Was extubated.  Went to rehab, where she
   had respiratory distress, PEA arrest, went to OSH - had AICD placed.
   ?Cardiac cath.  Gets anxious, HTNsive, and intubated.  Went home
   eventually.  Where she was home for 1/2 hour, got anxious, SOB,
   reintubated in the field.
   24 Hour Events:
 EKG - At [**2140-1-13**] 10:15 PM
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   lamictal
   celexa
   lasix
   lipitor
   lopressor
   asa
   prevacid
   CTX
   senna
   docusate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-1-14**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 63 (61 - 68) bpm
   BP: 102/53(64) {82/39(53) - 163/71(94)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  180 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    490 mL
                                                                    235 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -490 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: ///32/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   239 K/uL
   90 mg/dL
   1.3 mg/dL
   32 mEq/L
   3.6 mEq/L
   34 mg/dL
   103 mEq/L
   145 mEq/L
   30.8 %
   5.9 K/uL
        [image002.jpg]
                            [**2140-1-13**]  11:14 PM
   WBC
   5.9
   Hct
   30.8
   Plt
   239
   Cr
   1.3
   TropT
   0.05
   Glucose
   90
   Other labs: CK / CKMB / Troponin-T:21//0.05, Differential-Neuts:66.9 %,
   Lymph:23.8 %, Mono:3.4 %, Eos:5.4 %, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
   Respiratory failure:  Could be due to negative pressure pulmonary edema
   in setting of tracheal stenosis, ishemia, or anxiety  By report has had
   a negative
   cardiac stress test recently which would make ischemia less likely.
   Tracheal stenosis is likely contributing.  Will discuss with IP the
   options who know her well.
   Pulmonary edema:  will continue to diurese more aggressively with lasix
   80mg.
   UTI:  on CTX await culture results
   Acute on chronic systolic and diastolic  heart failure:  Fluid
   overloaded, diurese.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2140-1-13**] 09:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2140-01-15 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2140-1-14**] 10:30 AM
 OR RECEIVED - At [**2140-1-14**] 01:43 PM
   - Per IP attending, pt had substantial upper airway edema, so placed
   size 6 trach (instead of placing tracheal stent).
   - In the afternoon, pt was very angry/upset, refusing to be turned and
   repeatedly asking to be left alone. Also requesting meds for
   pain/anxiety.
   - Gave Lasix 80mg, then 40mg IV.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2140-1-15**] 04:35 AM
   Furosemide (Lasix) - [**2140-1-15**] 04:39 AM
   Morphine Sulfate - [**2140-1-15**] 04:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-1-15**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 68 (61 - 69) bpm
   BP: 123/49(67) {96/45(59) - 123/56(72)} mmHg
   RR: 14 (8 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,380 mL
                                                                    124 mL
   PO:
             TF:
   IVF:
                                                                  1,100 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  2,130 mL
                                                                    880 mL
   Urine:
                                                                  1,895 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                   -757 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 424 (301 - 424) mL
   PS : 8 cmH2O
   RR (Set): 7
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 42
   PIP: 14 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///34/
   Ve: 5.8 L/min
   Physical Examination
   General: Alert, intubated but comfortable appearing, no acute
   distress.  follows commands..
   Lungs: Bilaterally rhonchorous,
   CV: RRR,
   Abdomen:  s/nt/nd, +BS
   Ext:no c/c/e
   Labs / Radiology
   286 K/uL
   10.4 g/dL
   79 mg/dL
   1.2 mg/dL
   34 mEq/L
    3.8 mEq/L
   30 mg/dL
   104 mEq/L
   147 mEq/L
   32.6 %
   7.1 K/uL
        [image002.jpg]
                            [**2140-1-13**]  11:14 PM
                            [**2140-1-14**]  04:51 PM
                            [**2140-1-15**]  04:07 AM
   WBC
   5.9
   7.1
   Hct
   30.8
   32.6
   Plt
   239
   286
   Cr
   1.3
   1.3
   1.2
   TropT
   0.05
   Glucose
   90
   90
   79
   Other labs: CK / CKMB / Troponin-T:21//0.05, Differential-Neuts:66.9 %,
   Lymph:23.8 %, Mono:3.4 %, Eos:5.4 %, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.6 mg/dL
   Imaging: CXR [**1-13**] - c/w fluid overload, bilat pleural effusion
   Chest US -pending
   Microbiology: U cxr - pending
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
   68F with COPD, CAD, systolic CHF, and tracheal stenosis s/p complicated
   respiratory failure history, presenting with recurrent acute pulmonary
   edema of unclear etiology and respiratory failure.
   .
   # Respiratory failure.  Has a complicated tracheal history as above
   with past trach now decannulated; now presenting with multiple recent
   reintubations for acute onset respiratory distress and reported
   pulmonary edema.  Etiology of acute pulmonary edema not entirely clear
   - discussion of ?negative pressure edema from negative pressure
   generation with pulling against stenosed upper airway, acute ischemic
   heart disease leading to diastolic dysfunction, other cause of acute
   afterload increase (particularly likely as seems to have clear relation
   to anxiety), less likely total body volume overload given acuity of
   symptom onset.  Does not seem to be OSA related though that is in her
   history (no nighttime occurrences).  Also may be combination of factors
   - anxiety leading to increased afterload and poor forward flow leading
   to dyspnea, then severe dyspnea leading to increased intrathoracic
   pressures and worse dynamic airway stenosis.
   - Continue vent at current settings overnight.
   - Would strongly consider more definitive airway management to both
   prevent further tracheal injury with repeated intubations, and bypass
   stenosed area if NPPE playing a role.  Will discuss today with
   ENT/[**Doctor Last Name 4311**] and IP/[**Doctor Last Name 4950**].  Will keep NPO in case able to do tomorrow.
   - Try to obtain further information re: enzyme or ECG changes with
   acute episodes; also obtain recent cath if any (from St Vincents) and
   recent stress (from PCP) and recent TTE (from [**Hospital1 4942**]).
   - CXR now to eval tube placement.
   - ECG and check cardiac enzymes.  Check BNP.
   - Consider Aline if prolonged intubation or attempting to manage
   without trach.
   .
   # Acute pulmonary edema.  Etiology unclear as above.  Currently appears
   euvolemic.
   - Management of respiratory failure as above.
   - CXR.
   - Check BNP.
   - Continue CAD and CHF meds.  Need to clarify with patient and pharmacy
   if can be on lisinopril (listed on home meds, but also listed as
   allergy with angioedema - hold for now).
   .
   # COPD and tracheal stenosis.  Recent PFTs as per PMH.  Bronch during
   last admission revealing mild tracheal stenosis.  Unclear if this is
   contributing to her dyspnea and/or respiratory failure (primarily via
   negative pressure pulmonary edema and/or dynamic collapse of airways).
   - Trach as above.
   - ?home medication regimen for COPD - no inhalers currently listed.
   Can do inhalers prn while intubated.
   .
   # Pacer pocket pain/swelling.  Now about 2 weeks out from placement.
   Tender on exam though no erythema.
   - Ultrasound chest pocket to eval for abscess
   - Hold on specific abx treatment for now.
   .
   # UTI.  Lactose fermenting GNRs at OSH.
   - Ceftriaxone for now.  Resend UA and culture.  Consider broadening as
   has been in hospital a lot recently.
   - Check with OSH tomorrow re: culture update.
   .
   # Systolic CHF.
   - Obtain TTE results if really was performed today at OSH.
   - BB.  Hold ACE given ? allergy as above.
   - Lasix 40 IV BID for now, goal 1L neg in next 24 hours.  Mildly volume
   up.
   - Check BNP and CXR.
   .
   # CAD.  Consideration of ischemia as cause of symptoms as above.
   - Statin.
   - ASA for now ? need to hold for trach.
   - Obtain cath, echo, stress reports as above.
   .
   # Afib. Currently mostly A paced on tele. Otherwise having sinus
   beats.  Has never been on AC for unclear reasons.
   - Metoprolol as above
   - Clarify AC plans.
   .
   # Depression/anxiety.  Significant player in her respiratory distress
   episodes; not well managed as an outpatient with frequent admissions as
   per HPI.  Takes Ativan at home per patient, denies clonazepam.
   - Ativan prn for now.
   - Risk for BZ withdrawal if held; watch for signs.
   - Continue citalopram.
   .
   # FEN: No IVF, replete electrolytes, NPO for now (?trach), TF recs.
   # Prophylaxis: heparin allergic; boots.
   # Access: peripherals, will likely need PICC.
   # Communication: Patient
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2140-1-13**] 09:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2140-01-16 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - successfully weaned to trach collar
   - tolerated PO, on soft regular diet
   - PM lytes: wnl, hyperNa resolved (147 -> 144), Cr stable at 1.2
   - rec'd Zyprexa for agitation in AM
   - urine cx from [**1-13**] growing >100,000 GNRs, speciation/sensitivities
   pending.
   - ordered speech eval for passe-muir valve
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-1-15**] 08:21 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-1-16**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37
C (98.6
   HR: 62 (62 - 80) bpm
   BP: 122/50(68) {91/39(54) - 179/80(97)} mmHg
   RR: 10 (10 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    801 mL
                                                                     73 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    301 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    240 mL
   Urine:
                                                                  1,560 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -759 mL
                                                                   -167 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 486 (302 - 486) mL
   PS : 5 cmH2O
   RR (Set): 7
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 9.2 L/min
   Physical Examination
   General: Alert, appears comfortable, no acute distress, tries to
   communicate
   HEENT: trach in place
   Lungs: ctab
   CV: RRR
   Abdomen:  s/nt/nd, +BS
   Ext:no c/c/e
   Labs / Radiology
   251 K/uL
   10.8 g/dL
   107 mg/dL
   1.1 mg/dL
   30 mEq/L
   5.1 mEq/L
   27 mg/dL
   104 mEq/L
   145 mEq/L
   32.6 %
   6.1 K/uL
        [image002.jpg]
                            [**2140-1-13**]  11:14 PM
                            [**2140-1-14**]  04:51 PM
                            [**2140-1-15**]  04:07 AM
                            [**2140-1-15**]  05:12 PM
                            [**2140-1-16**]  02:52 AM
   WBC
   5.9
   7.1
   6.1
   Hct
   30.8
   32.6
   32.6
   Plt
   [**Telephone/Fax (3) 11245**]
   Cr
   1.3
   1.3
   1.2
   1.2
   1.1
   TropT
   0.05
   Glucose
   90
   90
   79
   124
   107
   Other labs: PT / PTT / INR:12.9/27.9/1.1, CK / CKMB /
   Troponin-T:21//0.05, Differential-Neuts:66.9 %, Lymph:23.8 %, Mono:3.4
   %, Eos:5.4 %, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Micro:
[**2140-1-13**] 11:14 pm URINE CULTURE (Preliminary):
      GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML
Imaging:
[**1-15**] CXR:
   FINDINGS: As compared to the previous radiograph, the tracheostomy tube
   has
   been placed and the ET tube and the nasogastric tube have been removed.
   The
   tip of the endotracheal tube projects 4.8 cm above the carina.
   Unchanged position and course of the pacemaker leads. The ventilation
   of the
   lung has improved. The costophrenic sinuses are substantially better
   visible
   than on the previous examination. Unchanged size of the cardiac
   silhouette,
   regression of the bilateral supradiaphragmatic areas of atelectasis. No
   evidence of newly occurred focal parenchymal opacities.
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
   68F with COPD, CAD, systolic CHF, and tracheal stenosis s/p complicated
   respiratory failure history, presenting with recurrent acute pulmonary
   edema of unclear etiology and respiratory failure.
   # Hypernatremia: likely [**2-23**] dehydration, now resolved after successful
   PO intake.
   - continue to monitor
   .
   # Respiratory failure:  Has a complicated tracheal history as above
   with past trach now decannulated; now presenting with multiple recent
   reintubations for acute onset respiratory distress and reported
   pulmonary edema.  Etiology of acute pulmonary edema not entirely clear
   - discussion of ?negative pressure edema from negative pressure
   generation with pulling against stenosed upper airway, acute ischemic
   heart disease leading to diastolic dysfunction, other cause of acute
   afterload increase (particularly likely as seems to have clear relation
   to anxiety), less likely total body volume overload given acuity of
   symptom onset.  Does not seem to be OSA related though that is in her
   history (no nighttime occurrences).  Also may be combination of factors
   - anxiety leading to increased afterload and poor forward flow leading
   to dyspnea, then severe dyspnea leading to increased intrathoracic
   pressures and worse dynamic airway stenosis. Now s/p trach placement.
   - successfully weaned to trach collar, on 50% FM currently
   .
   # Acute pulmonary edema.  Etiology unclear as above.  Currently appears
   euvolemic.
   - Management of respiratory failure as above.
   - has maintained even I/Os, will use Lasix PRN
   - Continue CAD and CHF meds.  Need to clarify with patient and pharmacy
   if can be on lisinopril (listed on home meds, but also listed as
   allergy with angioedema - hold for now).
   .
   # COPD and tracheal stenosis.  Recent PFTs as per PMH.  Bronch during
   last admission revealing mild tracheal stenosis.  Unclear if this is
   contributing to her dyspnea and/or respiratory failure (primarily via
   negative pressure pulmonary edema and/or dynamic collapse of airways).
   - Trach as above.
   - ?home medication regimen for COPD - no inhalers currently listed.
   Can do inhalers prn while intubated.
   .
   # Pacer pocket pain/swelling.  Now about 2 weeks out from placement.
   Tender on exam though no erythema.
   - Ultrasound chest pocket shows no abscess
   .
   # UTI.  Lactose fermenting GNRs at OSH.
   - continue Ceftriaxone
   - f/u urine cx speciation/sensitivities
   .
   # Systolic CHF.
   - Obtain OSH TTE
   - continue BB.  Hold ACE given ? allergy as above.
   - continue Lasix 40 IV
   .
   # CAD.  Consideration of ischemia as cause of symptoms as above.
   - continue Statin
   - continue ASA  (was held for trach placement)
   - Obtain OSH cath, echo, stress reports as above
   .
   # Afib. Currently mostly A paced on tele. Otherwise having sinus
   beats.  Has never been on anticoagulation for unclear reasons.
   - Metoprolol as above
   .
   # Depression/anxiety.  Significant player in her respiratory distress
   episodes; not well managed as an outpatient with frequent admissions as
   per HPI.  Takes Ativan at home per patient, denies clonazepam.
   - continue citalopram
   - Ativan prn for now
   - Risk for BZ withdrawal if held; watch for signs.
   .
   # FEN: replete electrolytes PRN, PO challenge today
   # Prophylaxis: heparin allergic; on pneumoboots
   # Access: peripherals
   # Communication: Patient
   # Code:  Full
   # Disposition: call out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2140-1-13**] 09:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: